US07842685B2
To 1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)ethanone (0.732 g, 1.88 mmol) in diethyl ether (15.7 mL) and toluene (14.7 mL) at 0° C. under argon was added methylmagnesium chloride, 3.0 M solution in THF (1.38 mL, 4.14 mmol). After stirring at 0° C. for 10 minutes, the reaction mixture was allowed to warm to room temperature and stirred for another 1 hour. The reaction mixture was quenched with saturated NH4Cl solution and diluted with CH2Cl2; the aqueous layer was back-extracted with CH2Cl2. The combined organic extracts were dried (MgSO4), filtered, and concentrated in vacuo. ISCO purification with 10% to 30% EtOAc/Hexanes afforded 2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)propan-2-ol as a colorless foam. MS (ESI) m/z: Calculated: 404.1; Observed: 405.1 (M++1).

reactant | 1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)ethanone | 1.88 mmol, 0.732 g | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C(C)=O | C23H17FN2OS
reactant | methylmagnesium chloride | C[Mg]Cl
reactant | THF | 4.14 mmol, 1.38 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 15.7 mL | C(C)OCC | C4H10O
solvent | toluene | 14.7 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)propan-2-ol | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C(C)(C)O | C24H21FN2OS
